US07452899B2
A mixture of bicyclo[4.2.1]non-3-en-9-one (10 g, 73 mmol), ethyleneglycol (12.3 ml, 220 mmol) and p-toluenesulphonic acid monohydrate (100 mg) in toluene (250 ml) was refluxed in a Dean-Stark apparatus for four hours. The reaction mixture was cooled to ambient temperature and sequentially washed with water (3×50 ml) and brine (100 ml). The organic extract was dried over MgSO4 and concentrated in vacuo, to afford spiro[bicyclo[4.2.1]non-3-ene-9,2′-[1,3]dioxolane] (13.12 g, 99.5%).

reactant | bicyclo[4.2.1]non-3-en-9-one | 73 mmol, 10 g | C12CC=CCC(CC1)C2=O | C9H12O
reactant | ethyleneglycol | 220 mmol, 12.3 ml | C(CO)O | C2H6O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulphonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | spiro[bicyclo[4.2.1]non-3-ene-9,2′-[1,3]dioxolane] | 13.12 g, 99.5% | O1C2(OCC1)C1CC=CCC2CC1 | C11H16O2
